US06407124B1
To a stirred solution of 1,1-dibromo-2-(5-t-butyl-oxazol-2-yl)ethylene (6.0 g, 19 mmole) in anhydrous THF (80 mL) at −78 deg C. under argon atmosphere. was added with 1.6 M n-butyllithium (32 mL, 51 mmole) in hexane dropwise over 20 min., the reaction mixture, stirred at −78 deg C. for 30 min and treated with tributyltin chloride (5.5 mL, 20 mmole). The reaction mixture was stirred for 30 min, warmed to 0 deg C., stirred at 0 deg C. for 30 min, and then at room temperature for 45 min. The mixture was passed through a short column of silica gel (deactivated with 2% triethylamine in hexane), and eluted with 10% EtOAc in dichloromethane to obtain crude product of 1-tributylstannyl-2-(5-t-butyl-oxazol-2-yl)acetylene as a brown oil (9.10 g).

reactant | 1,1-dibromo-2-(5-t-butyl-oxazol-2-yl)ethylene | 19 mmole, 6.0 g | BrC(=CC=1OC(=CN1)C(C)(C)C)Br | C9H11Br2NO
reactant | n-butyllithium | 51 mmole, 1.6 M, 32 mL | C(CCC)[Li]
reactant | tributyltin chloride | 20 mmole, 5.5 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-tributylstannyl-2-(5-t-butyl-oxazol-2-yl)acetylene | 9.10 g | C(CCC)[Sn](C#CC=1OC(=CN1)C(C)(C)C)(CCCC)CCCC | InChI=1S/C9H10NO.3C4H9.Sn/c1-5-8-10-6-7(11-8)9(2,3)4;3*1-3-4-2;/h6H,2-4H3;3*1,3-4H2,2H3;
